US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-phenylthiophene-2-carboxamide)
Prepared by a method analogous to that described in Example 1 from (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-bromothiophene-2-carboxamide) and phenylboronic acid, using tetrakis(triphenylphosphine)palladium (0) and sodium carbonate in a mixture of tetrahydrofuran, ethanol, and water. The compound was purified by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The hydrochloride salt was prepared by evaporation of the product-containing fractions, dissolution of the residue in methanol, addition of excess hydrogen chloride solution (1M in diethyl ether) and evaporation. Recrystallisation from ethyl acetate gave the hydrochloride salt of the title compound as a colourless solid; MS (ES+) 313 (MH+).

reactant | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-bromothiophene-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC=C(C2)Br | C12H15BrN2OS
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-phenylthiophene-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC=C(C2)C2=CC=CC=C2 | C18H20N2OS
